US07598389B2
17.7 g of aniline (0.19 mol), 50 g of allyltrimethylsilane (0.44 mol), 1.5 g of aluminum trichloride (0.01 mol) and 0.5 g of aluminum powder (0.02 mol) were mixed and stirred in an autoclave at 255° C. for 10 h. After cooling to room temperature, initially 100 ml of toluene and then 40 ml of a 40% strength solution of NaOH in water and 100 ml of water were added, and the mixture was stirred at 35° C. for 15 min. After cooling, the mixture was extracted with toluene, the extract was washed with water and dried over potassium carbonate and the solvent was removed under reduced pressure. Distillation (55° C.-60° C., 0.08 mbar) gave 1.4 g of 2-(1-methyl-2-trimethylsilylethyl)phenylamine [log P (pH 2.3)=3.05].

reactant | aniline | 0.19 mol, 17.7 g | NC1=CC=CC=C1 | C6H7N
reactant | allyltrimethylsilane | 0.44 mol, 50 g | C(C=C)[Si](C)(C)C | C6H14Si
reactant | aluminum trichloride | 0.01 mol, 1.5 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | aluminum | 0.02 mol, 0.5 g | [Al] | Al
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 100 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-methyl-2-trimethylsilylethyl)phenylamine | 1.4 g, pH 2.3 | CC(C[Si](C)(C)C)C1=C(C=CC=C1)N | C12H21NSi
